US08895582B2
To a solution of (S)-methyl 5-(tert-butoxycarbonylamino)-6-(tert-butyldimethylsilyloxy)hexanoate (15 g, 40 mmol) in DMF (100 mL) was added iodomethane (17 g, 120 mmol, 3 equiv.) at 0° C. NaH (60%, 2.4 g, 60 mmol, 1.5 equiv.) was added in 3 portions. The reaction was stirred at RT for 2 h. EtOAc (150 mL) and brine (200 mL) were added to the reaction mixture. The organic layer was washed with brine (200 mL), dried, and concentrated to give (S)-methyl 5-(tert-butoxycarbonyl(methyl)amino)-6-(tert-butyldimethylsilyloxy)hexanoate (15.5 g, quant.) as a colorless oil. LRMS (M-Boc+H+) m/z 290.1.

reactant | (S)-methyl 5-(tert-butoxycarbonylamino)-6-(tert-butyldimethylsilyloxy)hexanoate | 40 mmol, 15 g | C(C)(C)(C)OC(=O)N[C@@H](CCCC(=O)OC)CO[Si](C)(C)C(C)(C)C | C18H37NO5Si
reactant | iodomethane | 120 mmol, 17 g, 3 equiv. | IC | CH3I
reactant | NaH | 60 mmol, 2.4 g, 1.5 equiv. | [H-].[Na+]
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | 200 mL | [Cl-].[Na+].O
product | (S)-methyl 5-(tert-butoxycarbonyl(methyl)amino)-6-(tert-butyldimethylsilyloxy)hexanoate | 15.5 g | C(C)(C)(C)OC(=O)N([C@@H](CCCC(=O)OC)CO[Si](C)(C)C(C)(C)C)C | C19H39NO5Si
